US08809371B2
Toluenesulfonylmethylisocyanide (126 mg) and 1,8-diazabicyclo[5.4.0]undec-7-ene (122 mg) were added to a dichloromethane (4 ml) solution containing 5-bromo-3-pyridinecarboxaldehyde (100 mg) at room temperature, followed by stirring for 5 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate. The resultant was washed with saturated saline and dried over anhydrous sodium sulfate. Subsequently, the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=4:1 to 5:2), and a white solid of 5-(5-bromopyridin-3-yl)oxazole (96 mg) was thus obtained.

reactant | Toluenesulfonylmethylisocyanide | 126 mg | C=1(C(=CC=CC1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 122 mg | N12CCCCCC2=NCCC1 | C9H16N2
reactant | dichloromethane | 4 ml | ClCCl | CH2Cl2
reactant | 5-bromo-3-pyridinecarboxaldehyde | 100 mg | BrC=1C=C(C=NC1)C=O | C6H4BrNO
solvent | Water | O | H2O
product | 5-(5-bromopyridin-3-yl)oxazole | 96 mg | BrC=1C=C(C=NC1)C1=CN=CO1 | C8H5BrN2O
